US06057311
b. 1-benzyl-4-tert-butyloxycarbonyl-7-methylene-2-oxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine
μ-Chloro-μ-methylene-[bis(cyclopentadienyl)titanium]dimethylaluminium (0.5M in toluene/15 ml, 7.5 mmol) was added to a solution of 1-benzyl-4-tert-butyloxycarbonyl-2,7-dioxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine (2.95 g, 7.5 mmol) in tetrahydrofuran (23 ml) at -5° C. The resultant suspension was stirred at -5° C. for 15 minutes then allowed to warm to room temperature. Stirring was continued for a further 30 minutes followed by the addition of ethyl acetate (50 ml) and the mixture was washed with 0.2M sodium hydroxide solution (1.5 ml), and dried (MgSO4). The mixture was filtered through a pad of celite and evaporated to dryness. The crude product was purified by chromatography on silica gel with ethyl acetate-hexane (1:3) as eluant. (981 mg, 33%).

reactant | 1-benzyl-4-tert-butyloxycarbonyl-2,7-dioxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine | 7.5 mmol, 2.95 g | C(C1=CC=CC=C1)N1C(CN(CCC(C2=C1C=CC=C2)=O)C(=O)OC(C)(C)C)=O | C23H26N2O4
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 23 ml | O1CCCC1 | C4H8O
product | 1-benzyl-4-tert-butyloxycarbonyl-7-methylene-2-oxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine | C(C1=CC=CC=C1)N1C(CN(CCC(C2=C1C=CC=C2)=C)C(=O)OC(C)(C)C)=O | C24H28N2O3
